US05302593
a) Preparation of 12-bromododecylphthalimide
Potassium phthalimide (1 g; 5.4 mmoles) was added to a solution of 1,8-dibromododecane (5.31 g; 16.2 mmoles) in dimethylformamide (8 ml) and heated to 80° C. approx. under stirring. Reaction times and process as per Example 4.

reactant | Potassium phthalimide | 5.4 mmoles, 1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,8-dibromododecane | 16.2 mmoles, 5.31 g | BrCCCCCCCC(CCCC)Br | C12H24Br2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 12-bromododecylphthalimide | BrCCCCCCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C20H28BrNO2
